datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][C:8]([C:7]([H:10])([H:11])[H:12])([C:9]([H:14])([H:15])[H:16])[H:13],22.1752
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:17]([H:18])([H:19])[H:20],3.736312
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:11])[H:10],85.1444
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[S:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:11])[H:4].[C:9](=[S:10])[H:12],117.11
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:15])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4])([H:6])([H:7])[H:8].[O:5][H:15],177.98736
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8]([S:9][H:20])([c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])[H:19])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:19])[H:4].[C:7]([C:8]([S:9][H:20])[c:10]1[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]([H:24])[c:15]1[H:25])([H:16])([H:17])[H:18],12.552
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[O:4]1.[O:5][H:16],43.932
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10](=[C:11]([H:13])[H:14])[H:12]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:10](=[C:11]([H:13])[H:14])[H:12],35.31296
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:16])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:12],82.885
[C:0]([C:1](=[O:2])[O:3][O:4][H:7])([H:5])[H:6]>>[C:0](=[C:1]=[O:2])([H:5])[H:6].[O:3][O:4][H:7],123.428
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])=[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]([C:5]([H:17])([H:18])[H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25],46.6934
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:30]([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[H:10][C:30]([H:31])([H:32])[H:33],45.609784
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:14])[H:15])([H:12])[H:13])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:8])([H:14])[H:15])([H:12])[H:13])([O:6][O:7][H:16])[H:11])([H:9])[H:10],83.68
[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4].[H:8]>>[C:0](=[C:1][N:2]([H:6])[H:7])([H:3])[H:4].[H:5][H:8],47.136944
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[H:9]>>[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][H:9],14.158656
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](=[C:19][C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:19](=[C:18]([H:21])[H:22])[C:20]([H:23])([H:24])[H:25])[H:10],4.6024
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([H:16])([H:17])[H:18]>>[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])([C:15]([H:16])([H:17])[H:18])[C:6]1[H:14])([H:7])([H:8])[H:9],41.1979
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:18]([C:19]([H:22])([H:23])[H:24])([H:20])[H:21])[H:11])[H:10],19.7066
